US04450278
Preparation of 1-methyl-3,4-dichloro-5-(2-hydroxyethyl) thio pyrazole
To a mixture of 26.5 g (0.34 moles) 2-mercaptoethanol, 19 g of 85% potassium hydroxide, and a few drops of 18-Crown-6 in 250 ml of DMSO, 60 g(0.32 moles) 1-methyl-3,4,5-trichloro pyrazole (product of Example 1 or 1A)were added in portions. When the addition was complete, the reaction mixture was heated to 140° C. for 1 day. The cooled reaction mixture was diluted with water and extracted with ether. The oganic phase was washed four times with 200 ml water per time, dried and stripped. The crude product was chromatographed on a silica gel column. The product, 1-methyl-3,4-dichloro-5-(2-hydroxyethyl) thio pyrazole, was eluted from the column with ethyl acetate, yielding 27.7 g (37.7% yield) of a yellow oil.

reactant | 2-mercaptoethanol | 0.34 moles, 26.5 g | SCCO | C2H6OS
reactant | potassium hydroxide | 19 g | [OH-].[K+]
reactant | 1-methyl-3,4,5-trichloro pyrazole | 0.32 moles, 60 g | CN1N=C(C(=C1Cl)Cl)Cl | C4H3Cl3N2
catalyst | 18-Crown-6 | a few drops | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | DMSO | 250 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 1-methyl-3,4-dichloro-5-(2-hydroxyethyl) thio pyrazole | 27.7 g, 37.7% yield | CN1N=C(C(=C1SCCO)Cl)Cl | C6H8Cl2N2OS
